US05684034
1-[(4-Benzyloxyphenyl)methyl]-5-methoxy-2-methyl-1H-indole-3-acetic acid. Using the method described in Example 6, Part A, 2.0 g (8.12 mmol) of 5-methoxy-2-methyl-1H-indole-3-acetic acid ethyl ester, 0.325 g (8.12 mmol) of 60% NaH/mineral oil, and 1.88 g (8.12 mmol) of 4-benzyloxy-1-chloromethylbenzene were reacted to give on workup 800 mg of crude 1-[(4-benzyloxyphenyl)methyl]-5-methoxy-2-methyl-1H-indole-3-acetic acid ethyl ester. The crude ester in 50 mL of MeOH and 15 mL of 1N NaOH was heated at reflux temperature for 3 hours and left standing for 16 hours. After diluting with water, the mixture was made acidic with 1N HCl and extracted with EtOAc. The EtOAc solution was dried (Na2SO4) and concentrated. The residue was crystallized from MeOH to give 280 mg (32% yield) of 1-[(4-benzyloxyphenyl)-methyl]-5-methoxy-2-methyl-1H-indole-3-acetic acid, mp, 175°-179° C.

reactant | 1-[(4-Benzyloxyphenyl)methyl]-5-methoxy-2-methyl-1H-indole-3-acetic acid | C(C1=CC=CC=C1)OC1=CC=C(C=C1)CN1C(=C(C2=CC(=CC=C12)OC)CC(=O)O)C | C26H25NO4
reactant | 5-methoxy-2-methyl-1H-indole-3-acetic acid ethyl ester | 8.12 mmol, 2.0 g | C(C)OC(CC1=C(NC2=CC=C(C=C12)OC)C)=O | C14H17NO3
reactant | NaH | 8.12 mmol, 0.325 g | [H-].[Na+]
reactant | 4-benzyloxy-1-chloromethylbenzene | 8.12 mmol, 1.88 g | C(C1=CC=CC=C1)OC1=CC=C(C=C1)CCl | C14H13ClO
product | 1-[(4-benzyloxyphenyl)methyl]-5-methoxy-2-methyl-1H-indole-3-acetic acid ethyl ester | 800 mg | C(C)OC(CC1=C(N(C2=CC=C(C=C12)OC)CC1=CC=C(C=C1)OCC1=CC=CC=C1)C)=O | C28H29NO4
